US08937071B2
To a solution of 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (8.49 mg, 0.022 mmol), N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,3-difluorophenyl)acetamide (12 mg, 0.022 mmol) and Cs2CO3 (17.96 mg, 0.055 mmol) in 1,4-dioxane (6 mL) and H2O (2 mL) stirred under a N2 atmosphere at 20° C. was added PdCl2(dppf) (0.807 mg, 1.102 μmol) in one charge. The reaction vessel was heated in 110° C. for 3 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (PE/EA=2:1, Rf=0.6) to yield a brown solid of N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,3-difluorophenyl)acetamide (10 mg, 0.012 mmol, 52.7% yield): 1H NMR (400 MHz, CDCl3) δ 7.82 (d, J=3.0 Hz, 1H), 7.66-7.50 (m, 2H), 7.41-7.34 (m, 2H), 7.29-7.07 (m, 8H), 6.95-6.80 (m, 3H), 5.39 (d, J=4.9 Hz, 2H), 4.57 (d, J=5.0 Hz, 2H), 4.14 (d, J=4.0 Hz, 2H), 4.09-3.96 (m, 2H), 3.84-3.66 (m, 7H), 1.38 (q, J=6.4 Hz, 3H); ES-LCMS m/z 723.1 (M+H).

reactant | 3-ethoxy-2-((4-methoxybenzyl)oxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.022 mmol, 8.49 mg | C(C)OC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=C(C=C1)OC | C21H28BNO5
reactant | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-bromo-2,3-difluorophenyl)acetamide | 0.022 mmol, 12 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C(=C(C=C1)Br)F)F)=O)C(F)(F)F | C24H19BrF5NO3
reactant | Cs2CO3 | 0.055 mmol, 17.96 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 2 mL | O | H2O
catalyst | PdCl2(dppf) | 1.102 μmol, 0.807 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2,3-difluorophenyl)acetamide | 0.012 mmol, 10 mg, 52.7% yield | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)NC(CC1=C(C(=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)F)=O)C(F)(F)F | C39H35F5N2O6
